US05939439
Step 4: 4-(3-Hydroxy-1-imidazol-1-yl-propyl)-benzonitrile
The 4-[3-(tert-butyl-dimethyl-silanyloxy)-1-imidazol-1-yl-propyl]-benzonitrile (2.0 gm, mmol) was suspended in acetonitrile (20 mL) in a teflon flask and HF/pyridine (4 mL) was added and the reaction was stirred for 1 hour. The reaction was quenched with cold aqueous sodium hydroxide and the resulting solution was concentrated in vacuo. The residue was dissolved in methylene chloride and chromatographed on silica gel eluting with 1:1 ethyl acetate:hexanes. The desired fractions were concentrated in vacuo to give the desired product as an oil.

reactant | 4-[3-(tert-butyl-dimethyl-silanyloxy)-1-imidazol-1-yl-propyl]-benzonitrile | 2.0 gm | C(C)(C)(C)[Si](OCCC(N1C=NC=C1)C1=CC=C(C#N)C=C1)(C)C | C19H27N3OSi
reactant | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 4-(3-Hydroxy-1-imidazol-1-yl-propyl)-benzonitrile | OCCC(N1C=NC=C1)C1=CC=C(C#N)C=C1 | C13H13N3O
